US07504513B2
In a similar manner as described for Example 26, 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (40 mg, 0.1 mmol) and 3-trifluoromethylphenylboronic acid (28.5 mg, 0.15 mmol) gave 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid (26.1 mg, 58%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.90 (br.s. 1H); 8.82 (s, 1 H); 8.37-8.47 (m, 2 H); 7.87 (s, 1 H); 7.82 (d, 1 H); 7.72 (t, 1 H); 7.39 (s, 1 H); 3.87 (s, 3 H); 3.85 (s, 3 H). MS 450 m/z (M+1).

reactant | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 0.1 mmol, 40 mg | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
reactant | 3-trifluoromethylphenylboronic acid | 0.15 mmol, 28.5 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-(3-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid | 26.1 mg, 58% | COC1=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)C(F)(F)F)C(=O)O)C=C1OC | C20H14F3N3O4S
